US06664271B1
The reaction was run in the same manner as ethyl 1-benzoyl-3-piperidinecarboxylate, starting with 1-benzoyl-3-piperidinecarbonyl chloride (219.0 mg; 0.87 mmol) and commercially available octylamine (144 μl; 0.87 mmol). The crude product was purified by chromatography on silica, eluting with 100% ethyl acetate, giving N-(n-octyl) 1-benzoyl-3-piperidinecarboxamide (207.5 mg) as a colorless waxy oil. MS m/z (positive ion) 345 (MH+; 100), 216 (30).

reactant | ethyl 1-benzoyl-3-piperidinecarboxylate | C(C1=CC=CC=C1)(=O)N1CC(CCC1)C(=O)OCC | C15H19NO3
reactant | 1-benzoyl-3-piperidinecarbonyl chloride | 0.87 mmol, 219.0 mg | C(C1=CC=CC=C1)(=O)N1CC(CCC1)C(=O)Cl | C13H14ClNO2
reactant | octylamine | 0.87 mmol, 144 μl | C(CCCCCCC)N | C8H19N
product | N-(n-octyl) 1-benzoyl-3-piperidinecarboxamide | 207.5 mg | C(CCCCCCC)NC(=O)C1CN(CCC1)C(C1=CC=CC=C1)=O | C21H32N2O2
